US09340526B2
2-{3-[(Benzyloxy)methyl]-5-(trichloromethyl)-1H-pyrazol-1-yl}-3-chloropyridine
4.35 g of 3-[(benzyloxy)methyl]-1-(3-chloropyridin-2-yl)-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-5-ol were dissolved in 30 ml of methyl isobutyl ether. Then 3 g of trifluoroacetic anhydride were added (exothermic reaction). The mixture was stirred at 25° C. for a further 2 h, in the course of which the precipitate was formed. The precipitate was filtered off and washed. The yield was 95%.

reactant | 3-[(benzyloxy)methyl]-1-(3-chloropyridin-2-yl)-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-5-ol | 4.35 g | C(C1=CC=CC=C1)OCC1=NN(C(C1)(O)C(Cl)(Cl)Cl)C1=NC=CC=C1Cl | C17H15Cl4N3O2
reactant | trifluoroacetic anhydride | 3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methyl isobutyl ether | 30 ml | C(C(C)C)OC | C5H12O
product | 2-{3-[(Benzyloxy)methyl]-5-(trichloromethyl)-1H-pyrazol-1-yl}-3-chloropyridine | yield was 95% | C(C1=CC=CC=C1)OCC1=NN(C(=C1)C(Cl)(Cl)Cl)C1=NC=CC=C1Cl | C17H13Cl4N3O
